US07115609B2
1-[N-(Indole-6-carbonyl)-β-(4-pyridinyl)-D-alanyl]-4-(1-methylpiperidin-4-yl)piperazine
Using methods substantially equivalent to those described in Method D-1, the titled compound was prepared from 1-[β-(4-pyridinyl)-D-alanyl]-4-(1-methylpiperidin-4-yl)piperazine tetrahydrochloride and indole-6-carboxylic acid (50%).

reactant | 1-[β-(4-pyridinyl)-D-alanyl]-4-(1-methylpiperidin-4-yl)piperazine tetrahydrochloride | Cl.Cl.Cl.Cl.N1=CC=C(C=C1)C[C@@H](N)C(=O)N1CCN(CC1)C1CCN(CC1)C
reactant | indole-6-carboxylic acid | N1C=CC2=CC=C(C=C12)C(=O)O | C9H7NO2
product | 1-[N-(Indole-6-carbonyl)-β-(4-pyridinyl)-D-alanyl]-4-(1-methylpiperidin-4-yl)piperazine | N1C=CC2=CC=C(C=C12)C(=O)N[C@H](CC1=CC=NC=C1)C(=O)N1CCN(CC1)C1CCN(CC1)C | C27H34N6O2
